### PR TITLE
fix: do not store solved goals in info tree

### PR DESCRIPTION
**Pull request by Kha**

### CODE REVIEW

File: tests/lean/interactive/plainGoal.lean [hunk 1]
```diff
@@ -49,3 +49,8 @@ example : ∀ a b : Nat, a = b := by
 
 example : α → α := (by
                   --^ $/lean/plainGoal
+
+example (p : α → Prop) (a b : α) [DecidablePred p] (h : ∀ {p} [DecidablePred p], p a → p b) : p b := by
+  apply h _
+ --^ $/lean/plainGoal
+ -- should not display solved goal `⊢ DecidablePred p`
```
Comment (Kha) [inline tests/lean/interactive/plainGoal.lean:56]: @leodemoura This specific instance could also be solved in `evalApply`, but since goals can vanish at any point via unification in general, I assume this is the right approach

File: src/Lean/Elab/Tactic/Induction.lean [hunk 2]
```diff
@@ -174,12 +174,13 @@ private def checkAltNames (alts : Array (Name × MVarId)) (altsSyntax : Array Sy
         throwErrorAt altStx "invalid alternative name '{altName}'"
 
 def evalAlts (elimInfo : ElimInfo) (alts : Array (Name × MVarId)) (optPreTac : Syntax) (altsSyntax : Array Syntax)
+    (initialInfo : Info)
     (numEqs : Nat := 0) (numGeneralized : Nat := 0) (toClear : Array FVarId := #[]) : TacticM Unit := do
```
Comment (leodemoura) [inline src/Lean/Elab/Tactic/Induction.lean:178]: The new test does not exercise the changes at `Induction.lean`. 
I am wondering if we should add a test for them.

Comment (Kha) [reply src/Lean/Elab/Tactic/Induction.lean:178]: The tests above for `induction` broke without the change, that's how I found it

Comment (Kha) [reply src/Lean/Elab/Tactic/Induction.lean:178]: That is, they broke when I naively changed `getGoals` to `getUnsolvedGoals` in the `induction` code, since the main goal is already assigned at the original location of that code

Comment (Kha) [reply src/Lean/Elab/Tactic/Induction.lean:178]: As a reminder, the current logic is to show the initial state everywhere outside `=> rhs` for `induction/cases`. @mhuisi mentioned that it would be nice to show all induction cases after typing e.g. `induction e with`. I don't know if that should mean that we should change the displayed goals for all position outside of `=> rhs`, regardless of whether the syntax tree is complete or not.
